US04886814
2,4-Dimethyl-5-bromoacetyl-thiazole
A solution of 20.8 g (0.13 mol) of bromine in 50 ml of glacial acetic acid is slowly added dropwise to a solution of 20.2 g (0.13 mol) of 2,4-dimethyl-5-acetyl-thiazole in glacial acetic acid, heated to reflux. After 1 hour, the mixture is evaporated to dryness, the residue is dissolved in water, and the solution is neutralised with sodium carbonate solution. The mixture is then extracted several times with methylene chloride, and the organic phase is dried and concentrated. The oil which was obtained in this way was used for further reactions without further purification.

reactant | bromine | 0.13 mol, 20.8 g | BrBr | Br2
reactant | 2,4-dimethyl-5-acetyl-thiazole | 0.13 mol, 20.2 g | CC=1SC(=C(N1)C)C(C)=O | C7H9NOS
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2,4-Dimethyl-5-bromoacetyl-thiazole | CC=1SC(=C(N1)C)C(CBr)=O | C7H8BrNOS
